US06235731B1
2) Synthesis of tert-butyl 4-(diethoxyphosphorylmethylthiomethyl)piperidine-1-carboxylate
To a solution of 1.529 g (6.759 mM) of S-(diethoxyphosphorylmethyl) thioacetate in 30 ml of methanol was added 1.30 g (6.76 mM) of 28% sodium methoxide-methanol under ice-cooling and the mixture was stirred at the prevailing temperature for 20 minutes. To this reaction mixture was added crude tert-butyl 4-(mesyloxymethyl)piperidine-1-carboxylate [which was prepared by adding 0.73 ml (9.46 mM) of methanesulfonyl chloride to a solution of 1.75 g (8.11 mM) of tert-butyl 4-(hydroxymethylthiomethyl)piperidine-1-carboxylate and 1.51 ml (10.8 mM) of triethylamine in 30 ml of tetrahydrofuran with ice-cooling, stirring the mixture at the prevailing temperature for 0.5 hour, pouring the mixture in water, extracting it with 2 portions of ethyl acetate, drying the pooled organic layer over MgSO4, and concentrating it], and the mixture was refluxed for 3 hours. The solvent was distilled off under reduced pressure and the residue was diluted with water and extracted with 2 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate: 3/1 to ethyl acetate) to provide the title compound.

reactant | S-(diethoxyphosphorylmethyl) thioacetate | 6.759 mM, 1.529 g | C(C)(=O)SCP(=O)(OCC)OCC | C7H15O4PS
reactant | sodium methoxide methanol | 6.76 mM, 1.30 g | C[O-].[Na+].CO
reactant | tert-butyl 4-(mesyloxymethyl)piperidine-1-carboxylate | S(=O)(=O)(C)OCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO5S
reactant | methanesulfonyl chloride | 9.46 mM, 0.73 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl 4-(hydroxymethylthiomethyl)piperidine-1-carboxylate | 8.11 mM, 1.75 g | OCSCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO3S
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | triethylamine | 10.8 mM, 1.51 ml | C(C)N(CC)CC | C6H15N
product | tert-butyl 4-(diethoxyphosphorylmethylthiomethyl)piperidine-1-carboxylate | C(C)OP(=O)(OCC)CSCC1CCN(CC1)C(=O)OC(C)(C)C | C16H32NO5PS
